US06960600B2
4-[2-(2,4-difluorophenyl)-2-hydroxy-3-(1H-imidazol-1-yl)-propoxy]benzaldehyde
A mixture containing 1-[[2-(2,4-difluorophenyl)-oxiranyl]-methyl]-1H-imidazole (P2) (0.5 g, 2.1 mmole), 4-hydroxy-benzaldehyde (0.31 g, 2.5 mmole) K2CO3 (0.41 g, 2.9 mmole), 18-C-6 (25 mg) in 5 ml of DMF is stirred for 6 hours, extracted with dichloromethane, washed with 2N sodium bicarbonate, dried over Na2SO4, filtered and evaporated under reduced pressure in order to obtain 0.957 g of crude product which is purified by chromatography eluting with a CH2Cl2/MeOH mixture 97/3 in order to obtain 0.557 mg of expected product. Rf=0.12 (CH2Cl2/MeOH 97/3).

reactant | 1-[[2-(2,4-difluorophenyl)-oxiranyl]-methyl]-1H-imidazole | 2.1 mmole, 0.5 g | FC1=C(C=CC(=C1)F)C1(OC1)CN1C=NC=C1 | C12H10F2N2O
reactant | 4-hydroxy-benzaldehyde | 2.5 mmole, 0.31 g | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-[2-(2,4-difluorophenyl)-2-hydroxy-3-(1H-imidazol-1-yl)-propoxy]benzaldehyde | 0.557 mg | FC1=C(C=CC(=C1)F)C(COC1=CC=C(C=O)C=C1)(CN1C=NC=C1)O | C19H16F2N2O3
